### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): induction principles for nondegenerate simplices

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean [hunk 1]
```diff
@@ -152,6 +174,22 @@ namespace S
...
+  · simp only [le_antisymm_iff]
+    rfl
+
+lemma subcomplex_eq_of_epi (x y : X.S) (f : ⦋x.dim⦌ ⟶ ⦋y.dim⦌) [Epi f]
+    (hf : X.map f.op y.simplex = x.simplex) :
+    x.subcomplex = y.subcomplex := by
+  refine le_antisymm ?_ ?_ <;> simp only [Subcomplex.ofSimplex_le_iff]
+  · exact ⟨_, hf⟩
+  · have := isSplitEpi_of_epi f
+    exact ⟨(section_ f).op, by simp [← hf, ← FunctorToTypes.map_comp_apply, ← op_comp]⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean]:
```suggestion
lemma subcomplex_map_le (x y : X.S) (f : ⦋x.dim⦌ ⟶ ⦋y.dim⦌)
    (hf : X.map f.op y.simplex = x.simplex) :
    x.subcomplex ≤ y.subcomplex := by
  simp only [Subcomplex.ofSimplex_le_iff]
  exact ⟨_, hf⟩

lemma subcomplex_eq_of_epi (x y : X.S) (f : ⦋x.dim⦌ ⟶ ⦋y.dim⦌) [Epi f]
    (hf : X.map f.op y.simplex = x.simplex) :
    x.subcomplex = y.subcomplex := by
  refine le_antisymm (subcomplex_map_le x y f hf) ?_
  simp only [Subcomplex.ofSimplex_le_iff]
  have := isSplitEpi_of_epi f
  exact ⟨(section_ f).op, by simp [← hf, ← FunctorToTypes.map_comp_apply, ← op_comp]⟩
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplicesSubcomplex.lean [hunk 2]
```diff
@@ -57,11 +57,30 @@ lemma ext_iff (x y : A.N) :
...
+    (mem : ∀ (s : X.N), s.subcomplex ≤ A → motive s)
+    (notMem : ∀ (s : A.N), motive s.toN)
+    (s : X.N) :
+    motive s := by
+  by_cases hs : s.subcomplex ≤ A
+  · exact mem s hs
+  · exact notMem (.mk' s (by simpa using hs))
+
+lemma eq_iff_sMk_eq {X : SSet.{u}} {A : X.Subcomplex} (x y : A.N) :
+    x = y ↔ S.mk x.1.1.2 = S.mk y.1.1.2 := by
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplicesSubcomplex.lean]:
```suggestion
    x = y ↔ S.mk x.simplex = S.mk y.simplex := by
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean [hunk 3]
```diff
@@ -53,6 +53,14 @@ lemma mk_surjective (x : X.N) :
     ∃ (n : ℕ) (y : X.nonDegenerate n), x = N.mk _ y.prop :=
   ⟨x.dim, ⟨_, x.nonDegenerate⟩, rfl⟩
 
+/-- Induction principle for the type `X.N` of nondegenerate simplices of
+a simplicial set `X`. -/
+@[elab_as_elim]
+def induction {motive : X.N → Sort*}
+    (mk : ∀ (n : ℕ) (x : X.nonDegenerate n), motive (mk x.1 x.2)) (s : X.N) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean]:
```suggestion
    (mk : ∀ (n : ℕ) (x : X.nonDegenerate n), motive (mk x.val x.property)) (s : X.N) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean [hunk 4]
```diff
@@ -53,6 +53,14 @@ lemma mk_surjective (x : X.N) :
     ∃ (n : ℕ) (y : X.nonDegenerate n), x = N.mk _ y.prop :=
   ⟨x.dim, ⟨_, x.nonDegenerate⟩, rfl⟩
 
+/-- Induction principle for the type `X.N` of nondegenerate simplices of
+a simplicial set `X`. -/
+@[elab_as_elim]
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean]:
```suggestion
@[elab_as_elim, cases_eliminator, induction_eliminator]
```
maybe?

File: Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean [hunk 5]
```diff
@@ -53,6 +53,14 @@ lemma mk_surjective (x : X.N) :
...
+def induction {motive : X.N → Sort*}
+    (mk : ∀ (n : ℕ) (x : X.nonDegenerate n), motive (mk x.1 x.2)) (s : X.N) :
+    motive s :=
+  mk s.dim ⟨_, s.nonDegenerate⟩
+
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean:63]: Even though I suppose it will mainly be used for constructing props, this remains a sort-valued
def so it’s pobably a good idea to have something like
```suggestion

@[simp]
lemma induction_mk {motive : X.N → Sort*}
    (mk : ∀ (n : ℕ) (x : X.nonDegenerate n), motive (mk x.1 x.2)) {n : ℕ} (s : X.nonDegenerate n) :
  induction (motive := motive) mk (N.mk s.val s.property) = mk n s := rfl

```
that characterizes it when it is used for data

File: Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean [hunk 6]
```diff
@@ -182,6 +220,35 @@ lemma toN_eq_iff {x : X.S} {y : X.N} :
...
+    rw [← N.subcomplex_injective_iff, hy]
+    exact subcomplex_eq_of_epi _ _ f rfl
+  refine existsUnique_of_exists_of_unique ⟨f, inferInstance, rfl⟩
+    (fun f₁ f₂ ⟨_, hf₁⟩ ⟨_, hf₂⟩ ↦ unique_nonDegenerate_map _ _ _ _ hf₁.symm _ _ hf₂.symm)
+
+/-- Given a simplex `x : X.S` of a simplicial set `X`, this is the unique
+(epi)morphism `f : ⦋x.dim⦌ ⟶ ⦋x.toN.dim⦌` such that `x.simplex` is
+`X.map f.op x.toN.simplex` where `x.toN : X.N` is the unique nondegenerate
+simplex of `X` which generates the same subcomplex as `x`. -/
+noncomputable def toNπ (x : X.S) : ⦋x.dim⦌ ⟶ ⦋x.toN.dim⦌ :=
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/NonDegenerateSimplices.lean]:
```suggestion
@[no_expose] noncomputable def toNπ (x : X.S) : ⦋x.dim⦌ ⟶ ⦋x.toN.dim⦌ :=
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
